US08202865B2
Step 2: 4-[5-(5-chloro-6-isobutoxypyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzoic acid
Lithium bis(trimethylsilyl)amide (700 μL; 1 M; 0.70 mmol) was added to a solution of methyl 4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzoate, obtained in step 1 (73.63 mg; 0.20 mmol) in 2-methyl-1-propanol (3 mL) and THF (2 mL). The resulting mixture was stirred at RT for 1 h. Water (500 uL) was added and the mixture was stirred at RT for 3 h, saponification was complete. The reaction mixture was then diluted with EtOAc and washed with HCl 1N, NaCl sat. solution and dried over magnesium sulfate. After evaporation of the solvents, the crude was purified by HPLC prep to afford the title compound as a slightly yellow powder. 1H NMR (DMSO-d6, 300 MHz) δ 8.94 (d, J=2.2 Hz, 1H), 8.60 (d, J=2.2 Hz, 1H), 8.08 (t, J=7.7 Hz, 1H), 8.01 (dd, J=8.1, 1.5 Hz, 1H), 7.94 (dd, J=11.1, 1.5 Hz, 1H), 4.27 (d, J=6.5 Hz, 2H), 2.16-2.07 (m, 1H), 1.01 (d, J=6.6 Hz, 6H). LC/MS (Method B): 390.3 (M−H)−, 392.2 (M+H)+. HPLC (Method A) Rt 5.49 min (Purity: 98.6%).

reactant | Lithium bis(trimethylsilyl)amide | 0.70 mmol, 1 M, 700 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzoate | ClC=1C=C(C=NC1Cl)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C15H8Cl2FN3O3
reactant | Water | 500 uL | O | H2O
solvent | 2-methyl-1-propanol | 3 mL | CC(CO)C | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[5-(5-chloro-6-isobutoxypyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzoic acid | ClC=1C=C(C=NC1OCC(C)C)C1=NC(=NO1)C1=CC(=C(C(=O)O)C=C1)F | C18H15ClFN3O4
